US06218404B1
4-Benzyl-1-(4-hydroxybut-2-yn-1-yl)piperidine
A steam of ammonia gas was bubbled through dry-ice/acetone cooled methanol until the concentration of ammonia was about 20%. To this solution was added a solution of 1-(4-benzoyloxybut-2-yn-1-yl)-4-benzylpiperidine (300 mg, 0.860 mmol) in 2 mL of methanol. The resulting solution was allowed to stir at room temperature for 24 hr. Methanol was evaporated in vacuo to give a residue, which was purified by flash chromatography to give the title compound as a brown oil (140 mg, 67%): 1H NMR (CDCl3) d 1.35 (m, 2 H), 1.50 (m, 1 H), 1.62 (m, 2 H), 2.08 (m, 2 H), 2.51 (d, J=6.9 Hz, 2 H), 2.89 (d, J=11.1 Hz, 2 H), 3.25 (s, 2 H), 4.24 (s, 2 H), 4.50 (bs, 1 H), 7.10-7.26 (m, 5 H). HRMS calcd for C16H21NO 243.1613, found 243.1618.

reactant | 1-(4-benzoyloxybut-2-yn-1-yl)-4-benzylpiperidine | 0.860 mmol, 300 mg | C(C1=CC=CC=C1)(=O)OCC#CCN1CCC(CC1)CC1=CC=CC=C1 | C23H25NO2
solvent | methanol | 2 mL | CO | CH4O
product | 4-Benzyl-1-(4-hydroxybut-2-yn-1-yl)piperidine | 140 mg, 67% | C(C1=CC=CC=C1)C1CCN(CC1)CC#CCO | C16H21NO
